* Extracted by KLayout with SG13G2 LVS runset on : 10/08/2026 16:48

.SUBCKT sg13g2_IOPadIOVss iovdd iovss vss
X$1 \$1 iovss iovss sg13g2_DCNDiode
X$2 \$1 iovss iovdd iovss sg13g2_DCPDiode
R$1 iovss \$1 ptap1 A=5379.0466p P=677.04u
R$2 vss \$1 ptap1 A=24p P=160.6u
.ENDS sg13g2_IOPadIOVss

.SUBCKT sg13g2_DCPDiode \$1 guard cathode anode
D$1 anode cathode dpantenna A=35.0028p P=58.08u m=2
R$3 guard \$1 ptap1 A=33.5104p P=197.12u
.ENDS sg13g2_DCPDiode

.SUBCKT sg13g2_DCNDiode \$2 anode cathode
D$1 \$2 cathode dantenna A=35.0028p P=58.08u m=2
R$3 anode \$2 ptap1 A=141.2964p P=221.76u
.ENDS sg13g2_DCNDiode
